US07652022B2
N-(4-(4-Benzylaminopyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea
Under N2-atmosphere, a suspension of N-(4-(4-chloropyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea (397 mg, 1.00 mmol) and benzylamine (327 μM) in isopropanol (3 ml) is stirred for 21 h at 70° C. Then the reaction mixture is concentrated in vacuo, the residue re-dissolved in saturated NaHCO3 solution and AcOEt, the aqueous layer separated off and extracted twice with AcOEt. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated. The crude product is dissolved in CH2Cl2 and after addition of SiO2 again concentrated. The resulting powder is put on top of a SiO2-column and eluted with AcOEt/hexane 3:1, yielding the title compound: m.p.: 118-120° C.; 1H-NMR (DMSO-d6): 8.73 (s, HN), 8.62 (s, HN), 8.13 (s, 1H), 7.84 (s, HN), 7.46 (d, 2H), 7.35 (d, 2H), 7.30 (m, 4H), 7.28 (m, 2H), 7.24 (m, 1H), 7.03 (d, 2H), 5.78 (s, 1H), 4.49 (s, 2H), 1.26 (Me3C).

reactant | N-(4-(4-chloropyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea | 1.00 mmol, 397 mg | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(C)(C)C | C21H21ClN4O2
reactant | benzylamine | 327 μM | C(C1=CC=CC=C1)N | C7H9N
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | N-(4-(4-Benzylaminopyrimidin-6-yl-oxy)-phenyl)-N′-(4-tert-butylphenyl)-urea | C(C1=CC=CC=C1)NC1=NC=NC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(C)(C)C | C28H29N5O2
